US05514810
a) 2-Bromo-2-(pyrid-2-yl)-acetic acid ethyl ester
16.52 g (100 mmol) of 2-pyridylacetic acid ethyl ester is dissolved in 50 ml of carbon tetrachloride. It is cooled to 0° C. and 15.98 g (100 mmol) of bromine, dissolved in 15 ml of carbon tetrachloride, is then instilled in it within 30 minutes. Then, it is allowed to react for one more hour at 25° C. The bromine coloring fades away. It is concentrated by evaporation in a vacuum and obtains the hydrobromide of the title compound. The free compound is obtained by extraction of ether from the aqueous solution after adding sodium bicarbonate. Yield: 22.80 g (93.4% of theory) Elementary analysis: Cld: C 44.29 H 4.13 Br 32.74 N 5.74 Fnd: C 44.22 H 4.18 Br 32.81 N 5.68

reactant | 2-pyridylacetic acid ethyl ester | 100 mmol, 16.52 g | C(C)OC(CC1=NC=CC=C1)=O | C9H11NO2
reactant | bromine | 100 mmol, 15.98 g | BrBr | Br2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromo-2-(pyrid-2-yl)-acetic acid ethyl ester | C(C)OC(C(C1=NC=CC=C1)Br)=O | C9H10BrNO2
